US08445510B2
4-Bromo-5-chloro-1,3-dimethyl-1H-pyrazole
A solution of 5-chloro-1,3-dimethyl-1H-pyrazole (0.500 g, 3.83 mmol) in carbon tetrachloride (2.0 mL) was charged with NBS (0.750 g, 4.21 mmol) and stirred at rt for 16 h. The reaction mixture was charged with silica gel and purified by chromatography on silica gel [ISCO Combiflash, 12 g cartridge, eluting with 100% heptane 10% EtOAc in heptane]. This resulted in 419 mg, 52% yield of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ=2.23 (s, 3H), 3.81 (s, 3H). MS (ES+): m/z 208.96, 210.93 (76/24) [MH+]. HPLC: tR=2.62 min (polar—5 min, ZQ3).

reactant | 5-chloro-1,3-dimethyl-1H-pyrazole | 3.83 mmol, 0.500 g | ClC1=CC(=NN1C)C | C5H7ClN2
reactant | NBS | 4.21 mmol, 0.750 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 2.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromo-5-chloro-1,3-dimethyl-1H-pyrazole | 419 mg, 52% yield | BrC=1C(=NN(C1Cl)C)C | C5H6BrClN2
